US06972287B1
Preparation of 2-{4-[5-(3,4-Dichlorophenyl)pentyl]phenylamino}-4-methoxy-5-nitrobenzoic acid methyl ester
The title compound was prepared from 4-[5-(3,4-dichlorophenyl)pentyl]phenylamine (231 mg, 0.75 mmol), LHDMS (6.28 mL, 1 M in THF, 6.28 mmol) and 2-fluoro-4-methoxy-5-nitrobenzoic acid methyl ester (172 g, 0.75 mmol) in THF (5 mL) using the procedure described in Example 13. Purification by flash chromatography (silica gel, 10% EtOAc/hexane) yielded 145 mg (0.28 mmol, 37%) of the desired product

reactant | 4-[5-(3,4-dichlorophenyl)pentyl]phenylamine | 0.75 mmol, 231 mg | ClC=1C=C(C=CC1Cl)CCCCCC1=CC=C(C=C1)N | C17H19Cl2N
reactant | 2-fluoro-4-methoxy-5-nitrobenzoic acid methyl ester | 0.75 mmol, 172 g | COC(C1=C(C=C(C(=C1)[N+](=O)[O-])OC)F)=O | C9H8FNO5
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-{4-[5-(3,4-Dichlorophenyl)pentyl]phenylamino}-4-methoxy-5-nitrobenzoic acid methyl ester | 0.28 mmol, 145 mg, 37% | COC(C1=C(C=C(C(=C1)[N+](=O)[O-])OC)NC1=CC=C(C=C1)CCCCCC1=CC(=C(C=C1)Cl)Cl)=O | C26H26Cl2N2O5
